US05650410
According to the same manner as that described in Example 14, ethyl 2-chloromethyl-4-(3-isopropoxy-4-methoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate was reacted with diethylamine to give ethyl 2-(N,N-diethylaminomethyl)-4-(3-isopropoxy-4-methoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate dihydrochloride. This compound was recrystallized from ethyl acetate - ether. Yellow powder, mp. 122°-124° C.

reactant | ethyl 2-chloromethyl-4-(3-isopropoxy-4-methoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC(C)C)OC)OC | C25H28ClNO6
reactant | diethylamine | C(C)NCC | C4H11N
product | ethyl 2-(N,N-diethylaminomethyl)-4-(3-isopropoxy-4-methoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate dihydrochloride | Cl.Cl.C(C)N(CC)CC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC(C)C)OC)OC | InChI=1S/C29H38N2O6.2ClH/c1-9-31(10-2)17-22-28(29(32)36-11-3)27(19-12-13-23(33-6)26(14-19)37-18(4)5)20-15-24(34-7)25(35-8)16-21(20)30-22;;/h12-16,18H,9-11,17H2,1-8H3;2*1H
